US04465850
To a suspension of 4-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-oxy]butanoic acid (0.5 g, 0.0012 mole) in absolute ethanol (50 ml) is added conc. sulfuric acid and the mixture is refluxed for 1 hr., treated with 3 Å molecular sieves and stirred at 25° for 18 hours. The reaction mixture is treated with more conc. sulfuric acid (0.2 ml) refluxed for 1 hr, filtered and treated with solid potassium carbonate. The ethanol is distilled at reduced pressure to give ethyl 4-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]butanoate which is purified by chromatography on silica gel eluted with methylene chloride-tetrahydrofuran (100:1).

reactant | 4-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-oxy]butanoic acid | 0.0012 mole, 0.5 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCC(=O)O | C19H22Cl2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]butanoate | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCC(=O)OCC | C21H26Cl2O4
